US08957064B2
Step 1: 2-cyclopropyl-6-(4-fluorophenyl)-[1,2,4]triazolo[1,5-a]pyrimidine-5,7-diol
10.2 g (81.9 mmol) 5-Cyclopropyl-1,2,4-triazole-3-ylamine, 25 g (98.3 mmol) diethyl (4-fluorophenyl)malonate and 32.2 mL (135.2 mmol) tributylamine are stirred at 180° C. for 18 hours. The solution is diluted with 120 mL 2N NaOH solution and 120 mL water and the resulting mixture is extracted three times with methyl-tert. butylether. These organic extracts are discarded. The aqueous phase is acidified to pH 1 with 2N HCl. The precipitate is collected by filtration, washed with plenty of water and dried. This material (13.5 g=57.6%) is used without further purification.

reactant | 5-Cyclopropyl-1,2,4-triazole-3-ylamine | 81.9 mmol, 10.2 g | C1(CC1)C1=NC(=NN1)N | C5H8N4
reactant | diethyl (4-fluorophenyl)malonate | 98.3 mmol, 25 g | FC1=CC=C(C=C1)C(C(=O)OCC)C(=O)OCC | C13H15FO4
reactant | tributylamine | 135.2 mmol, 32.2 mL | C(CCC)N(CCCC)CCCC | C12H27N
solvent | NaOH | 2N, 120 mL | [OH-].[Na+]
solvent | water | 120 mL | O | H2O
product | 2-cyclopropyl-6-(4-fluorophenyl)-[1,2,4]triazolo[1,5-a]pyrimidine-5,7-diol | C1(CC1)C1=NN2C(N=C(C(=C2O)C2=CC=C(C=C2)F)O)=N1 | C14H11FN4O2
